US04153716
A mixture of 2.8 g. (0.009 mole) of 5-methylthiomethyl-2-nitro-3-phenylbenzofuran and 160 ml. of acetic acid is heated to 40° C., and 2.0 g. (0.018 mole) of hydrogen peroxide in 30 ml. of acetic acid is added dropwise as the temperature rises to 50° C. The solution is stirred for about six hours at 50° C. and for about 16 hours at 20° C., then poured into cold water. The precipitate is collected by filtration, rinsed with water and dissolved in dichloromethane. The solution is washed with water and saturated sodium chloride solution, then dried. Evaporation provides yellow solid which is recrystallized from a benzene-hexane mixture to give 5-methylsulfonylmethyl-2-nitro-3-phenylbenzofuran, m.p. 178°-181° C.

reactant | 5-methylthiomethyl-2-nitro-3-phenylbenzofuran | 0.009 mole | CSCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H13NO3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 0.018 mole | OO | H2O2
reactant | water | O | H2O
product | 5-methylsulfonylmethyl-2-nitro-3-phenylbenzofuran | CS(=O)(=O)CC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H13NO5S
